US07314936B2
To a solution of 2-methylamino-cyclohexanol (0.204 g, 1.58 mmol, 1.0 eq.) and di-tert-butyl dicarbonate (0.422 g, 1.2 eq.) in CH2Cl2 (7.0 mL) was added was added a solution of K2CO3 in water (1.09 g in 14.0 mL of H2O) and the resulting mixture was stirred vigorously for 1 h. The separated aqueous layer was extracted twice with CH2Cl2. The combined organic phase was dried over MgSO4, filtered and concentrated to give (2-hydroxy-cyclohexyl)-methyl-carbamic acid tert-butyl ester (0.332 g, 92%).

reactant | 2-methylamino-cyclohexanol | 1.58 mmol, 0.204 g, 1.0 eq. | CNC1C(CCCC1)O | C7H15NO
reactant | di-tert-butyl dicarbonate | 0.422 g, 1.2 eq. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 7.0 mL | C(Cl)Cl | CH2Cl2
solvent | water | 14.0 mL, 1.09 g | O | H2O
product | (2-hydroxy-cyclohexyl)-methyl-carbamic acid tert-butyl ester | 0.332 g, 92% | C(C)(C)(C)OC(N(C)C1C(CCCC1)O)=O | C12H23NO3
